US04822890
Preparation of Fmoc-Asn
4.95 g (37.5 mmoles) of finely ground asparagine (Chemical Dynamics Corp.) was placed in a 250 mL round bottom flask (oven dried) which was fitted with a condenser (oven dried). A nitrogen gas line was attached at the top of the condenser. The solid was suspended in 87.5 mL of dry N,N-dimethylacetamide and stirred vigorously. 19.04 mL (150 mmoles) of Tms-Cl was injected in one portion. The mixture was stirred for 1 hour and cooled in an ice bath. 9-Fluorenylmethyoxycarbonyl chloride (6.47 g, 25 mmoles) and 19.78 mL (175 mmoles) of diisopropylethylamine were added. The solution was stirred in ice for 20 minutes and warmed to room temperature for 1-1.5 hrs. The mixture was concentrated on a rotary evaporator and then distributed between 200 mL diethyl ether and 250 mL 2.5% sodium bicarbonate. The phases were separated and the aqueous layer was extracted with 2×50 mL diethyl ether. The ether layers were backwashed with 2×25 mL H2O. The combined aqueous layers were acidified to pH 2 with 1.0N HCl. The white precipitate was filtered and washed with cold H2O. The product was then dried overnight. Appropriate solvents were used to recrystallize the product. The product was found to be homogeneous (Table II).

reactant | asparagine | N[C@@H](CC(N)=O)C(=O)O | C4H8N2O3
reactant | 9-Fluorenylmethyoxycarbonyl chloride | 25 mmoles, 6.47 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)Cl | C15H11ClO2
reactant | diisopropylethylamine | 175 mmoles, 19.78 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | Fmoc-Asn | N([C@@H](CC(N)=O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C19H18N2O5
